US09403834B2
N-(tert-Butyl)-5-(1-((3-fluorophenyl)amino)-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide (0.020 g, 0.039 mmol) was dissolved in TFA (0.500 mL, 6.48 mmol) and heated at 65° C. for 4 h. TFA was removed under reduced pressure and the resulting residue was diluted with saturated NaHCO3 (10 mL). The reaction mixture was extracted with EtOAc (3×20 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to give a residue which was purified by preparative HPLC (Condition B-9 described in general methods) to afford 5-(1-((3-fluorophenyl)amino)-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide (0.010 g, 56%) as a pale yellow solid. LCMS Method B-7: retention time 1.79 min, [M+1]=461.0, Purity 99.6%. LCMS Method B-8: retention time 1.30 min, [M+1]=461.0, Purity 100%. 1H NMR (400 MHz, DMSO-d6) δ ppm: 6.82 (td, J=2.0 Hz, J=8.4 Hz, 1H), 6.95 (dd, J=1.6 Hz, J=8.4 Hz, 1H), 7.12 (d, J=2.8 Hz, 1H), 7.27-7.33 (m, 1H), 7.50-7.65 (m, 6H), 7.71 (dt, J=2.4 Hz, J=12.0 Hz, 1H), 7.77 (br s, 2H), 7.81 (d, J=2.8 Hz, 1H), 8.70 (t, J=2.0 Hz, 1H), 9.20 (d, J=2.0 Hz, 1H), 9.31 (d, J=2.0 Hz, 1H).

reactant | N-(tert-Butyl)-5-(1-((3-fluorophenyl)amino)-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide | 0.039 mmol, 0.020 g | C(C)(C)(C)NS(=O)(=O)C=1C=NC=C(C1)C1=NN=C(C=2N1C=CC2C2=CC=CC=C2)NC2=CC(=CC=C2)F | C27H25FN6O2S
reactant | TFA | 6.48 mmol, 0.500 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(1-((3-fluorophenyl)amino)-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide | 0.010 g, 56% | FC=1C=C(C=CC1)NC=1C=2N(C(=NN1)C=1C=C(C=NC1)S(=O)(=O)N)C=CC2C2=CC=CC=C2 | C23H17FN6O2S
